US08067590B2
2-Chloro-1-[5-(2-chloro-benzyl)-3a,4,5,6,7,7a-hexahydro-thieno[3,2-c]pyridin-2-yl]-ethanone
To 10.0 g (33.3 mmol) 5-(2-chloro-benzyl)-3a,4,5,6,7,7a-hexahydro-thieno[3,2-c]pyridine is added 3.18 mL (40.0 mmol) chloro-acetyl chloride and then 8.88 g (66.6 mmol) aluminium(III)-chloride. The reaction mixture is stirred 1 h at 70° C. and then a water-ice mixture is added followed by DCM. The formed precipitate is collected and dried.

reactant | 5-(2-chloro-benzyl)-3a,4,5,6,7,7a-hexahydro-thieno[3,2-c]pyridine | 33.3 mmol, 10.0 g | ClC1=C(CN2CC3C(CC2)SC=C3)C=CC=C1 | C14H16ClNS
reactant | chloro-acetyl chloride | 40.0 mmol, 3.18 mL | ClCC(=O)Cl | C2H2Cl2O
reactant | aluminium(III)-chloride | 66.6 mmol, 8.88 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 2-Chloro-1-[5-(2-chloro-benzyl)-3a,4,5,6,7,7a-hexahydro-thieno[3,2-c]pyridin-2-yl]-ethanone | ClCC(=O)C1=CC2CN(CCC2S1)CC1=C(C=CC=C1)Cl | C16H17Cl2NOS
